US07622486B2
Synthesis of 1-[4-(2,6-dichloro-pyridin-4-ylamino)-phenyl]-ethanone
To 2,6-dichloro-4-iodopyridine (0.8177 g, 3 mmol) and 4-aminoacetophenone (0.4891 g, 3.6 mmol) dissolved in dry toluene (10 mL) and THF (2 mL) was added tris(dibenzylideneacetone)dipalladium(0) (0.0571 g, 0.06 mmol), 1,3-bis(diphenyl-phospino)propane (0.0499 g, 0.12 mmol), and sodium-tert-butoxide (0.4042 g, 4.2 mmol). The reaction mixture was stirred and refluxed for 12 to 14 hours under N2. The reaction mixture was diluted with CH2Cl2 and filtered through Celite™, then rinsed with CH2Cl2. The filtrate was washed two times with water and one time with brine. The organic phase was collected and dried over potassium carbonate. The filtered sample was concentrated, and the resulting solid was dried for 12-18 hours under vacuum.

reactant | 2,6-dichloro-4-iodopyridine | 3 mmol, 0.8177 g | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
reactant | 4-aminoacetophenone | 3.6 mmol, 0.4891 g | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | 1,3-bis(diphenyl-phospino)propane | 0.12 mmol, 0.0499 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | sodium-tert-butoxide | 4.2 mmol, 0.4042 g | CC(C)([O-])C.[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.06 mmol, 0.0571 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-[4-(2,6-dichloro-pyridin-4-ylamino)-phenyl]-ethanone | ClC1=NC(=CC(=C1)NC1=CC=C(C=C1)C(C)=O)Cl | C13H10Cl2N2O
